US07989633B2
4,4,4-Trifluoro-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione
A solution of 200 mg (1.06 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde in 20 ml of dichloromethane is mixed with 229.73 mg (1.06 mmol) of 4,4,4-trifluoro-1-phenyl-1,3-butanedione, 0.08 ml (1.33 mmol) of acetic acid and 0.01 ml (0.11 mmol) of piperidine and stirred under reflux with a water trap overnight. After cooling, the mixture is diluted with dichloromethane and washed with saturated sodium chloride solution. The organic phase is dried over sodium sulfate and concentrated. 474 mg (>100% of theory) of the desired product are obtained as a yellow oil which is reacted further without purification.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 1.06 mmol, 200 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 4,4,4-trifluoro-1-phenyl-1,3-butanedione | 1.06 mmol, 229.73 mg | FC(C(CC(=O)C1=CC=CC=C1)=O)(F)F | C10H7F3O2
reactant | acetic acid | 1.33 mmol, 0.08 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.11 mmol, 0.01 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4,4,4-Trifluoro-2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-1-phenylbutane-1,3-dione | FC(C(C(C(=O)C1=CC=CC=C1)=CC=1C=CC=C2C(C=C(OC12)C)=O)=O)(F)F | C21H13F3O4
